US04277501
N-n-Pentyl-4-(4-nitrophenyl)butylaminium chloride
n-Pentylamine was reacted with 4-(4-nitrophenyl)butanoyl chloride to provide the corresponding amide. Nine grams of N-n-pentyl-4-(4-nitrophenyl)butyramide were reacted with 96 ml. of a 1 molar solution of diborane in tetrahydrofuran to provide, following isolation as described in Example 1, 7.8 g. of N-n-pentyl-4-(4-nitrophenyl)butylamine. The amine was dissolved in diethylether and reacted with hydrogen chloride to afford, following crystallization from isopropanol, 5.8 g. of N-n-pentyl-4-(4-nitrophenyl)-butylaminium chloride. M.P. 144°-146° C.

reactant | N-n-pentyl-4-(4-nitrophenyl)butylamine | C(CCCC)NCCCCC1=CC=C(C=C1)[N+](=O)[O-] | C15H24N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | diethylether | C(C)OCC | C4H10O
product | N-n-Pentyl-4-(4-nitrophenyl)butylaminium chloride | [Cl-].C(CCCC)[NH2+]CCCCC1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C15H24N2O2.ClH/c1-2-3-5-12-16-13-6-4-7-14-8-10-15(11-9-14)17(18)19;/h8-11,16H,2-7,12-13H2,1H3;1H
